US05550138
To a mixture of 1-[5-ethyl-4-(5,6,7,8-tetrahydro-2-naphthyl)-2-thiazolyl]-3-(4-methylphenyl)sulfonyl-2-thiourea (1.40 g) and chloroform (10 ml), sulfuryl chloride (420 mg) was added. After being stirred at room temperature for 2 hours, the reaction mixture was concentrated; the residue was treated with ethanol, and the resulting crystal was collected by filtration and recrystallized from dichloromethane-ethanol to yield 5-ethyl-2-(4-methylphenyl)sulfonylimino-6-(5,6,7,8-tetrahydro-2-naphthyl)-2H-thiazolo[3,2- b][1,2,4]thiadiazole (1.00 g, yield 72%) as a colorless needle.

reactant | 1-[5-ethyl-4-(5,6,7,8-tetrahydro-2-naphthyl)-2-thiazolyl]-3-(4-methylphenyl)sulfonyl-2-thiourea | 1.40 g | C(C)C1=C(N=C(S1)NC(=S)NS(=O)(=O)C1=CC=C(C=C1)C)C1=CC=2CCCCC2C=C1 | C23H25N3O2S3
reactant | sulfuryl chloride | 420 mg | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | 5-ethyl-2-(4-methylphenyl)sulfonylimino-6-(5,6,7,8-tetrahydro-2-naphthyl)-2H-thiazolo[3,2- b][1,2,4]thiadiazole | 1.00 g, yield 72% | C(C)C1=C(N2SC(N=C2S1)=NS(=O)(=O)C1=CC=C(C=C1)C)C1=CC=2CCCCC2C=C1 | C23H23N3O2S3
